US07932272B2
2-Amino-6-vinyl-nicotinic acid methyl ester
2-Amino-6-chloro-nicotinic acid methyl ester (2.95 g, 15.8 mmol), vinyl tri-n-butyltin (5.01 g, 15.8 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.83 g, 1.58 mmol) were suspended in xylene (15 mL), and heated for 1 hour at 130° C. The reaction mixture was allowed to room temperature, water and ethyl acetate were added thereto, this mixture was filtered through Celite pad, then, the filtrate thereof was partitioned. The organic layer was separated, the solvent was evaporated in vacuo, and the residue was purified by silica gel column chromatography to obtain the title compound (1.87 g, 10.5 mmol, 66%) as a white solid.

reactant | 2-Amino-6-chloro-nicotinic acid methyl ester | 15.8 mmol, 2.95 g | COC(C1=C(N=C(C=C1)Cl)N)=O | C7H7ClN2O2
reactant | vinyl tri-n-butyltin | 15.8 mmol, 5.01 g | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.58 mmol, 1.83 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Amino-6-vinyl-nicotinic acid methyl ester | 10.5 mmol, 1.87 g, 66% | COC(C1=C(N=C(C=C1)C=C)N)=O | C9H10N2O2
